US06200999B1
4) Ethyl 4-(Bromomethyl)-3-methoxyisoxazole-5-carboxylate
Ethyl 3-Methoxy-4-methylisoxazole-5-carboxylate (1.3 g, 7.0 mmol), NBS (1.4 g, 7.9 mmol), dibenzoyl peroxide (catalytic amount) and tetrachloromethane (40 mL) was boiled under reflux for 10 h. The mixture was cooled, filtered and concentrated in vacuo to give crude title compound as a yellow oil (1.8 g, 97%). The crude product was used in the next step without further purification.

reactant | Ethyl 3-Methoxy-4-methylisoxazole-5-carboxylate | 7.0 mmol, 1.3 g | COC1=NOC(=C1C)C(=O)OCC | C8H11NO4
reactant | NBS | 7.9 mmol, 1.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 40 mL | ClC(Cl)(Cl)Cl | CCl4
product | Ethyl 4-(Bromomethyl)-3-methoxyisoxazole-5-carboxylate | 1.8 g, 97% | BrCC=1C(=NOC1C(=O)OCC)OC | C8H10BrNO4
